US07419984B2
6-(5-Chloro-2-methyl-phenyl)-N*4*-(1H-indazol-6-yl)-pyrimidine-2,4-diamine
Following the method described in Example 26, 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine and 1H-indazol-6-yl-amine provided the title compound (73% yield). 1H NMR (DMSO-d6) δ 2.37 (s, 3H, CH3), 6.17 (s, 1H, Ar), 6.35 (s, 2H, NH2), 7.30-7.33 (m, 2H, Ar), 7.37 (dd, 1H, J=8.2 Hz, J=2.3 Hz, Ar), 7.43 (d, 1H, J=2.3 Hz, Ar), 7.64 (d, 1H, J=8.6 Hz, Ar), 7.95 (s, 1H, Ar), 8.04 (s, 1H, Ar), 9.33 (s, 1H, NH), 12.80 (s, 1H, Ar).

reactant | 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)C)N | C11H9Cl2N3
reactant | 1H-indazol-6-yl-amine | N1N=CC2=CC=C(C=C12)N | C7H7N3
product | 6-(5-Chloro-2-methyl-phenyl)-N*4*-(1H-indazol-6-yl)-pyrimidine-2,4-diamine | 73% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C2C=NNC2=C1)C | C18H15ClN6
